US07329658B2
Preparation of 1-[7-(2-Chlorophenyl)-8-(4-chlorophenyl)-2-methylpyrazolo[1,5-a][1,3,5]triazin-4-yl]-3-isopropylaminoazetidine-3-carboxylic Acid Amide (3A-1)
To a mixture of 3-isopropylaminoazetidine-3-carboxylic acid amide hydrochloride salt (I-3A-1c; 72 mg, 0.361 mmol) and 4-chloro-7-(2-chlorophenyl)-8-(4-chlorophenyl)-2-methylpyrazolo[1,5-a][1,3,5]triazine (I-2A-1b; 102 mg, 0.261 mmol) in methylene chloride (1.3 ml) was added diisopropylethylamine (0.16 ml, 0.91 mmol), dropwise. After stirring for 90 minutes, the reaction was extracted from saturated aqueous NaHCO3 with methylene chloride. The combined extracts were dried (MgSO4), concentrated, in vacuo, and then purified on a Biotage™ Flash 12M column using 0-5% methanol in methylene chloride as eluant. The resultant solid was triturated from methanol and then dried, in vacuo, to afford 3A-1 (104 mg, 78%) as a colorless solid: +ESI MS (M+1) 510.1; 1H NMR (400 MHz, CD2Cl2) δ 7.47-7.34 (m, 6H), 7.21 (d, J=8.7 Hz, 2H), 6.96 (br s, 1H), 5.42 (br s, 1H), 5.22 (br m, 1H), 4.73 (br m, 2H), 4.18 (br m, 1H), 3.11 (septuplet, J=6.2 Hz, 1H), 2.48 (s, 3H), 1.06 (d, J=6.2 Hz, 6H).

reactant | 3-isopropylaminoazetidine-3-carboxylic acid amide hydrochloride salt | 0.361 mmol, 72 mg | Cl.C(C)(C)NC1(CNC1)C(=O)N
reactant | 4-chloro-7-(2-chlorophenyl)-8-(4-chlorophenyl)-2-methylpyrazolo[1,5-a][1,3,5]triazine | 0.261 mmol, 102 mg | ClC1=NC(=NC=2N1N=C(C2C2=CC=C(C=C2)Cl)C2=C(C=CC=C2)Cl)C | C18H11Cl3N4
reactant | diisopropylethylamine | 0.91 mmol, 0.16 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | methylene chloride | 1.3 ml | C(Cl)Cl | CH2Cl2
product | 1-[7-(2-Chlorophenyl)-8-(4-chlorophenyl)-2-methylpyrazolo[1,5-a][1,3,5]triazin-4-yl]-3-isopropylaminoazetidine-3-carboxylic Acid Amide | ClC1=C(C=CC=C1)C1=NN2C(N=C(N=C2N2CC(C2)(C(=O)N)NC(C)C)C)=C1C1=CC=C(C=C1)Cl | C25H25Cl2N7O
